US04814343
24.1 g (0.098 mole) of 2-bromo-3-methoxy-6-methoxymethylphenol and 27.7 g of methyl iodide are dissolved in 200 ml of acetone in the presence of 14.82 g (0.107 mole) of potassium carbonate. This solution is heated at reflux temperature, with stirring, for 2.5 hours. It is then cooled, the mineral salts are filtered off and the filtrate is distilled to remove the acetone. The residue is taken up in water and extracted with dichloromethane. The organic phase is dried over anhydrous sodium sulfate and distilled under reduced pressure. 13.1 g of 1-bromo-2,6-dimethoxy-3-methoxymethylbenzene are obtained. Yield: 51% of theory; B.P.: 92°-115° C./0.005 mbar.

reactant | 2-bromo-3-methoxy-6-methoxymethylphenol | 0.098 mole, 24.1 g | BrC1=C(C(=CC=C1OC)COC)O | C9H11BrO3
reactant | methyl iodide | 27.7 g | CI | CH3I
reactant | potassium carbonate | 0.107 mole, 14.82 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-bromo-2,6-dimethoxy-3-methoxymethylbenzene | 13.1 g, Yield: 51% | BrC1=C(C(=CC=C1OC)COC)OC | C10H13BrO3
